US04232014
3,4-Dimethoxyphenylacetic acid (6.47 g, 0.033 mole) was dissolved in 50 ml of dry benzene and refluxed for 2 hr. with excess thionyl chloride (25 ml). The solvent and SOCl2 were removed on a rotary evaporator. Two additional quantities of dry benzene were added to the residue, followed by rotary evaporation which yielded 3,4-dimethoxyphenylacetyl chloride.

reactant | 3,4-Dimethoxyphenylacetic acid | 0.033 mole, 6.47 g | COC=1C=C(C=CC1OC)CC(=O)O | C10H12O4
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 3,4-dimethoxyphenylacetyl chloride | COC=1C=C(C=CC1OC)CC(=O)Cl | C10H11ClO3
